US09399637B2
3-(8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile
To a solution of N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-methyl-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine (300 mg, 0.74 mmol), 2-cyanoacetic acid (156 mg, 1.83 mmol) in a mixture of DCM and DMF (4/1 (v/v), 35 mL) were added HATU (925.8 mg, 2.44 mmol) and Et3N (0.49 g, 4.84 mmol). After addition, the reaction mixture was stirred at rt for 0.5 h, then quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), and dried over anhydrous Na2SO4, then concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=20/1) to give the title compound as a beige solid (210 mg, 60.0%).

reactant | N2-(2,3-dimethyl-2H-indazol-6-yl)-N4-methyl-N4-(2-azaspiro[4.5]decan-8-yl)pyrimidine-2,4-diamine | 0.74 mmol, 300 mg | CN1N=C2C=C(C=CC2=C1C)NC1=NC=CC(=N1)N(C1CCC2(CCNC2)CC1)C | C23H31N7
reactant | 2-cyanoacetic acid | 1.83 mmol, 156 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 2.44 mmol, 925.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 4.84 mmol, 0.49 g | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 3-(8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile | 210 mg, 60.0% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(CC#N)=O)CC1)C | C26H32N8O
